US04347363
The invention resides in the process which comprises reacting pyridinylmethyl methyl ketone with ethoxymethylenemalononitrile in a lower-alkanol to produce 1,2-dihydro-6-methyl-2-oxo-5-(pyridinyl)nicotinonitrile, where pyridinyl is 4- or 3-pyridinyl or 4- or 3-pyridinyl having one or two lower-alkyl substituents. In a preferred embodiment 4(or 3)-pyridinylmethyl methyl ketone and ethoxymethylenemalononitrile are heated in ethanol to produce 1,2-dihydro-6-methyl-2-oxo-5-[4(or 3)-pyridinyl]nicotinonitrile. In a particularly preferred embodiment 4-pyridinylmethyl methyl ketone and ethoxymethylenemalononitrile are heated in refluxing ethanol to produce 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile.

reactant | 4-pyridinylmethyl methyl ketone | CC(=O)CC1=CC=NC=C1 | C8H9NO
reactant | ethoxymethylenemalononitrile | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | ethanol | C(C)O | C2H6O
product | 1,2-dihydro-6-methyl-2-oxo-5-(4-pyridinyl)nicotinonitrile | CC=1NC(C(C#N)=CC1C1=CC=NC=C1)=O | C12H9N3O
